US07842713B2
Preparation of Intermediate 367b: 3,4-Dihydroxy-5-nitrobenzoic Acid
A solution of sodium chlorite (47.6 g, 526 mmol) in water (350 mL) was added drop wise to a solution of 3,4-dihydroxy-5-nitrobenzaldehyde (68.8 g, 376 mmol) and sodium dihydrogen phosphate (45.1 g, 376 mmol) in DMSO/H2O mixture (375 mL/150 mL) at room temperature for 1.5 h. The reaction mixture was stirred at room temperature for 1 h and poured into a separatory funnel containing a 5% solution NaHCO3 (500 mL). The product was extracted with dichloromethane (3×100 mL). The water layer was acidified with concentrated HCl to pH˜1 and extracted with ether (3×250 mL). The combined organic layers were washed with brine (200 mL), dried over Na2SO4, and evaporated to afford the desired acid (70.3 g, 353 mmol, 94% yield).

reactant | sodium chlorite | 526 mmol, 47.6 g | Cl(=O)[O-].[Na+]
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 376 mmol, 68.8 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | sodium dihydrogen phosphate | 376 mmol, 45.1 g | P(=O)(O)(O)[O-].[Na+]
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | water | 350 mL | O | H2O
solvent | DMSO H2O | 375 mL | CS(=O)C.O
product | 3,4-Dihydroxy-5-nitrobenzoic Acid | 353 mmol, 70.3 g, 94% yield | OC=1C=C(C(=O)O)C=C(C1O)[N+](=O)[O-] | C7H5NO6
